US07858632B2
To a solution of 5-(2-isopropyl-4-methoxy-5-nitro-phenoxy)-pyrimidine-2,4-diamine (2.953 g, 9.2 mmol) in 250 mL EtOH and 25 AcOH was added 10% Pd/C. The mixture was placed under 50 psi of H2 via a Parr hydrogenator. After 2.5 h the mixture was filtered through a pad of celite. The pad was washed with ethyl acetate and the solution was partially concentrated in vacuo. The residue was taken up in 500 mL H2O and cooled to 0° C. The solution was adjusted to pH=12 with 50% NaOH extracted with ethyl acetate. The combined organics were washed with H2O, washed with brine, dried over Na2SO4, filtered and concentrated in vacuo to afford 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (2.156 g, 82%) as a dark-orange solid.

reactant | 5-(2-isopropyl-4-methoxy-5-nitro-phenoxy)-pyrimidine-2,4-diamine | 9.2 mmol, 2.953 g | C(C)(C)C1=C(OC=2C(=NC(=NC2)N)N)C=C(C(=C1)OC)[N+](=O)[O-] | C14H17N5O4
reactant | AcOH | CC(=O)O | C2H4O2
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 5-(5-amino-2-Isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 2.156 g, 82% | NC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H19N5O2
